US09334278B2
To a solution of 2-bromo-N-tert-butyl-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (150 mg, 351 μmol) in dichloromethane (5.5 mL) was added trifluoroacetic acid (800 mg, 541 μL, 7.02 mmol) and the mixture stirred at room temperature for 16 h. The reaction mixture was concentrated in vacuo and the residue obtained diluted with dichloromethane (5 mL), methanol (2.5 mL) and ammonium hydroxide (0.7 mL) and stirred at room temperature for 1 h. The mixture was concentrated and triturated with water. The solid was collected by filtration and washed with water and ether to give 2-bromo-N-tert-butyl-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (80 mg, 269 μmol, 77%) as an off white solid.

reactant | 2-bromo-N-tert-butyl-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 351 μmol, 150 mg | BrC=1N=C2C(=NC1)N(C=C2C(=O)NC(C)(C)C)COCC[Si](C)(C)C | C17H27BrN4O2Si
reactant | trifluoroacetic acid | 7.02 mmol, 541 μL, 800 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | methanol | 2.5 mL | CO | CH4O
solvent | ammonium hydroxide | 0.7 mL | [OH-].[NH4+]
product | 2-bromo-N-tert-butyl-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 269 μmol, 80 mg, 77% | BrC=1N=C2C(=NC1)NC=C2C(=O)NC(C)(C)C | C11H13BrN4O
